US05136080
1. Preparation of 2-(2,3,5-trichlorophenyl)-3-oxobutyronitrile
To a solution of NaOEt (from 0.68 g of sodium) in ethanol (20 ml) was added 2,3,5-trichlorophenylacetonitrile (5 g) and ethyl acetate (4.43 ml). The mixture was heated under reflux, under nitrogen for 2.5 hours. The mixture was left standing at room temperature overnight. The mixture was then concentrated and the residue was dissolved in water. The aqueous phase was washed with ether, acidified with concentrated H2SO4 and extracted with ether. The extracts were bulked, dried (MgSO4) and evaporated, 2.59 g, mp. 134°-135° C.

reactant | NaOEt | 0.68 g | CC[O-].[Na+]
reactant | 2,3,5-trichlorophenylacetonitrile | 5 g | ClC1=C(C=C(C=C1Cl)Cl)CC#N | C8H4Cl3N
reactant | ethyl acetate | 4.43 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(2,3,5-trichlorophenyl)-3-oxobutyronitrile | ClC1=C(C=C(C=C1Cl)Cl)C(C#N)C(C)=O | C10H6Cl3NO
